US05231179
To a solution of oxazolidin-2-one (4.00 g; 45.9 mmol) in dry tetrahydrofuran (70 ml), a solution of n-butyl lithium in hexane (1.60 N; 30 ml) was added at 0° C., and then 1-bromopropionyl bromide (5.83 ml, 45.9 mmol) was added at the same temperature. After 1 hour, an aqueous solution of saturated potassium dihydrogen phosphate (5 ml) was added to decompose the excess reaction agent. The aqueous layer was extracted with ethyl acetate, and the combined organic layer was washed with brine and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (n-hexane:dichloromethane=1:1) to give 3-(2'-bromopropionyl)oxazolidin-2-one (8.68 g, yield, 84%) as a colorless solid. The sample for analysis was obtained by recrystallization from diethyl ether. M.P., 41° C.

reactant | oxazolidin-2-one | 45.9 mmol, 4.00 g | O1C(NCC1)=O | C3H5NO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-bromopropionyl bromide | 45.9 mmol, 5.83 ml | CCC(=O)CC(Br)Br | C5H8Br2O
reactant | potassium dihydrogen phosphate | 5 ml | P(=O)(O)(O)[O-].[K+]
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.60 N, 30 ml | CCCCCC | C6H14
product | 3-(2'-bromopropionyl)oxazolidin-2-one | 8.68 g, 84% | BrC(C(=O)N1C(OCC1)=O)C | C6H8BrNO3
